US03943124
3α-Hydroxy-17β(2'-morpholinoethoxycarbonyl)-5α-androstane
A solution of 17β(2'-morpholinoethoxycarbonyl)-5α-androstan-3-one (750 mg.) in the minimum volume of isopropanol was added to a stock solution (35 ml.) of chloroiridic acid/trimethyl phosphite complex preneutralised to pH5 with triethylamine (3 ml.). This solution, after being refluxed for 4.5 hours, was poured into water and extracted with chloroform. The chloroform solution was washed with water, dried (MgSO4) and filtered through a short column of florisil before evaporation to a gum (740 mg.). Purification by preparative t.l.c. (ethanol/chloroform 1:19) afforded title compound (545 mg.) as a white froth; [α]D + 37.8, (c 0.9%).

reactant | 17β(2'-morpholinoethoxycarbonyl)-5α-androstan-3-one | 750 mg | O1CCN(CC1)CCOC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C26H41NO4
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 3α-Hydroxy-17β(2'-morpholinoethoxycarbonyl)-5α-androstane | 545 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)OCCN1CCOCC1 | C26H43NO4
